US04420487
Preparation of 5-Chloro-2-Pentyl-6-Sulfamyl-1H-Benzimidazole
To 50 ml of 4 N hydrochloric acid containing 11.8 g of 2-amino-4-chloro-5-sulfamylaniline was added 9.2 g of hexanoic acid and the suspension refluxed for 6 hours. Concentration in vacuo provided a solid which was then slowly added with stirring to 100 ml of 38% ammonium hydroxide. After collecting the solid by filtration, the precipitate was added to 400 ml of methanol and the suspension brought to a boil. Charcoal was then added and the mixture filtered through filter paper, cooled, and filtered through Celite. Concentration in vacuo gave brown crystals which upon recrystallization from acetonitrile provided 2.6 g of product, mp 183°-185°.

reactant | hydrochloric acid | 4 N, 50 ml, 11.8 g | Cl | ClH
reactant | 2-amino-4-chloro-5-sulfamylaniline | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | hexanoic acid | 9.2 g | C(CCCCC)(=O)O | C6H12O2
solvent | ammonium hydroxide | 100 ml | [OH-].[NH4+]
product | 5-Chloro-2-Pentyl-6-Sulfamyl-1H-Benzimidazole | 2.6 g | ClC1=CC2=C(NC(=N2)CCCCC)C=C1S(N)(=O)=O | C12H16ClN3O2S
